US07939526B2
A suspension of 4-chloro-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline (4.30 g, 11.3 mmol) in a solution of ammonia in methanol (7 M, 43 mL) in a high pressure vessel was heated at 150° C. for 12 hours. The vessel was allowed to cool to room temperature. The mixture was concentrated under reduced pressure to afford a solid that was slurried in water (50 mL), saturated aqueous sodium carbonate, and methanol. The solid was isolated by filtration, washed with water, and purified by flash chromatography (silica gel, eluted with 10% methanol in dichloromethane) to provide a white solid. The solid was heated in methanol (200 mL) at reflux, isolated by filtration, washed with methanol, and dried to yield 2.2 g of 1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinolin-4-amine as a white powder, mp 261-264° C.

reactant | 4-chloro-1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinoline | 11.3 mmol, 4.30 g | ClC1=NC=2C=CC=CC2C2=C1N=CN2CC(C)(OCCS(=O)(=O)C)C | C17H20ClN3O3S
reactant | ammonia | N | H3N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 7 M, 43 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | 1-{2-methyl-2-[2-(methylsulfonyl)ethoxy]propyl}-1H-imidazo[4,5-c]quinolin-4-amine | 2.2 g | CC(CN1C=NC=2C(=NC=3C=CC=CC3C21)N)(C)OCCS(=O)(=O)C | C17H22N4O3S
